US04154837
(a) 2-Methyl-3-[4-(2,3-epoxypropoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one
1.35 gm (10 mmols+20%) of potassium-tert.butoxide were added to a solution of 2.8 gm (10 mmols) of 2-methyl-3-(4-hydroxy-phenyl)-7-methoxy-isoquinolin-1(2H)-one in 20 ml of dimethylsulfoxide, while stirring; the potassium salt precipitated out after a short time. 2.8 ml of epibromohydrin were now added, and the mixture was stirred at room temperature until the reaction had gone to completion. The reaction mixture was then poured into ice water, and the cristalline precipitate was collected by suction filtration, washed and dried.

reactant | potassium tert.butoxide | 10 mmols, 1.35 gm | [K].CC(C)([O-])C
reactant | 2-methyl-3-(4-hydroxy-phenyl)-7-methoxy-isoquinolin-1(2H)-one | 10 mmols, 2.8 gm | CN1C(C2=CC(=CC=C2C=C1C1=CC=C(C=C1)O)OC)=O | C17H15NO3
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-Methyl-3-[4-(2,3-epoxypropoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one | CN1C(C2=CC(=CC=C2C=C1C1=CC=C(C=C1)OCC1CO1)OC)=O | C20H19NO4
